US06071903
Methyl 3-Hydroxy-2-(4-methoxybenzenesulfonylamino)propionate
To a mixture of 5.0 g (32.14 mmol) of D,L-serine, methyl ester and 15.7 ml (0.012 mol) of triethylamine in 100 ml of CH2Cl2, cooled to 0° C., was added portionwise 6.64 g (32.14 mmol) of 4-methoxybenzenesulfonyl chloride. The mixture was then stirred under argon at room temperature for 2 days. The mixture was diluted with 100 ml of CH2Cl2 and then washed with 60 ml each of H2O, 2 N citric acid, brine and dried with Na2SO4. The solvent was removed under vacuum to give a solid. Crystallization from ethyl acetate gave 5.0 g (54%) of white crystals, m.p. 92-94° C. Anal. for C11H15NO6S: Calc'd: C,45.7; H,5.2; N,4.8; S,11.1; Found: C,45.6; H,5.2; N,4.8; S,1.11.

reactant | D,L-serine, methyl ester | 32.14 mmol, 5.0 g | NC(CO)C(=O)OC | C4H9NO3
reactant | triethylamine | 0.012 mol, 15.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 32.14 mmol, 6.64 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-Hydroxy-2-(4-methoxybenzenesulfonylamino)propionate | 5.0 g, 54% | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO6S
